US08440830B2
To a solution of a piperidone hydrochloride (1 eq) in dichloromethane was added Et3N (2.1 eq) at 0° C. and the reaction mixture was stirred for 15 min. A solution ethyl chloroformate (1.1 eq) in chloroform was added at 0° C. and reaction was continued at room temperature for 3 h Reaction was quenched with water and extracted with ethyl acetate, organic layer was separated, dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford crude product, which, on purification by column chromatography afforded the desired ethyl 4-oxopiperidine-1-carboxylate.

reactant | piperidone hydrochloride | 1 eq | Cl.N1C(CCCC1)=O
reactant | Et3N | 2.1 eq | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.1 eq | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-oxopiperidine-1-carboxylate | O=C1CCN(CC1)C(=O)OCC | C8H13NO3
